US07538120B2
Preparation of 5-[7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridin-6-yl]-[1,3,4]oxadiazole-2-thiol
7-(4-Bromo-2-fluoro-phenylamino)-8-chloro-imidazo[1,2-a]pyridine-6-carboxylic acid hydrazide (50 mg, 0.13 mmol) was suspended in ethanol (2.5 mL) and cooled to 0° C. Carbon disulfide (22 mg, 0.29 mmol) was added, followed by powdered potassium hydroxide (7 mg, 0.13 mmol). The reaction mixture was stirred under N2 for 1 hour at 0° C. and then for 30 minutes at room temperature. The reaction mixture was then brought to reflux and stirred under N2 for 5 days. The reaction mixture was diluted with water and acidified to pH 1-2 with aqueous 1 M HCl. This mixture was then extracted with ethyl acetate (2×). The combined organic layers were washed with saturated aqueous NaHCO3, saturated aqueous NaCl, dried over Na2SO4 and concentrated. Purification of the crude product was achieved by flash column chromatography (gradient of dichloromethane to 15:1 dichloromethane/methanol) and then trituration with diethyl ether and dichloromethane to yield the desired product (17 mg, 31%) as a yellow solid. MS ESI (+) m/z 440, 442 (M+, Cl, Br pattern) detected. 1H NMR (400 MHz, DMSO-d6) δ 9.29 (s, 1H), 8.16 (s, 1H), 8.08 (br s, 1H), 7.73 (s, 1H), 7.49 (d, 1H), 7.15 (d, 1H), 6.59 (t, 1H). 19F (376 MHz, DMSO-d6)−128.7 (s).

reactant | 7-(4-Bromo-2-fluoro-phenylamino)-8-chloro-imidazo[1,2-a]pyridine-6-carboxylic acid hydrazide | 0.13 mmol, 50 mg | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C(=O)NN)C=CN2)Cl)F | C14H10BrClFN5O
reactant | Carbon disulfide | 0.29 mmol, 22 mg | C(=S)=S | CS2
reactant | potassium hydroxide | 0.13 mmol, 7 mg | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-[7-(4-Bromo-2-fluorophenylamino)-8-chloroimidazo[1,2-a]pyridin-6-yl]-[1,3,4]oxadiazole-2-thiol | 17 mg, 31% | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C1=NN=C(O1)S)C=CN2)Cl)F | C15H8BrClFN5OS
